US04742057
To a mixture of 4-[4-(3-indolyl)piperidinomethyl]-2-aminothiazole (1 g), triethylamine (1.3 g) and N,N-dimethylformamide (10 ml) was added dropwise a solution of 2-acetoxyacetyl chloride (0.87 g) in methylene chloride (1 ml) in a stream of nitrogen gas with ice-cooling and stirring over a period of 20 minutes. After 3 hours, the reaction mixture was filtered and the residue on the filter paper was washed with N,N-dimethylformamide (10 ml). The filtrate and washings were combined and concentrated under reduced pressure to remove the solvent. The residue was subjected to column chromatography on silica gel and elution was carried out with a mixture of chloroform and methanol (20:1 V/V). The fractions containing the desired compound were collected and concentrated under reduced pressure and the residue was recrystallized from a mixture of water and ethanol to give 4-[4-(3-indolyl)piperidinomethyl]-2-(2-acetoxyacetylamino)thiazole (0.23 g).

reactant | 4-[4-(3-indolyl)piperidinomethyl]-2-aminothiazole | 1 g | N1C=C(C2=CC=CC=C12)C1CCN(CC1)CC=1N=C(SC1)N | C17H20N4S
reactant | triethylamine | 1.3 g | C(C)N(CC)CC | C6H15N
reactant | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
reactant | 2-acetoxyacetyl chloride | 0.87 g | C(C)(=O)OCC(=O)Cl | C4H5ClO3
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
product | 4-[4-(3-indolyl)piperidinomethyl]-2-(2-acetoxyacetylamino)thiazole | 0.23 g | N1C=C(C2=CC=CC=C12)C1CCN(CC1)CC=1N=C(SC1)NC(COC(C)=O)=O | C21H24N4O3S
